US08357717B2
Stage 6: 2-(1-(4-Methoxy-2,6-dimethylphenylsulfonyl)indolin-6-yl)-1-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecan-3-yl)ethanone (G-20)
To a solution of 2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)indolin-6-yl)acetic acid (E-19) (150 mg, 0.4 mmol) in dichloromethane (10 ml/mmol) there was added at 0° C. diisopropylethylamine (0.3 ml, 1.6 mmol) followed by HOBT (54 mg, 0.48 mmol) and EDCl (115 mg, 0.6 mmol). The resulting reaction mixture was stirred for 16 h at 25° C. and then diluted with dichloromethane (30 ml) and washed with saturated ammonium chloride solution, saturated sodium chloride solution and saturated sodium hydrogen carbonate solution. Drying (Na2SO4) and concentration in vacuo were then carried out. The resulting crude product was purified by column chromatography (Alox-neutral, 0.5% methanol in dichloromethane). Yield: 150 mg (64%). MS, Rt=3.4 min; m/z=589.4 [MH]+

reactant | 2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)indolin-6-yl)acetic acid | 0.4 mmol, 150 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CCC2=CC=C(C=C12)CC(=O)O)C | C19H21NO5S
reactant | diisopropylethylamine | 1.6 mmol, 0.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 0.48 mmol, 54 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.6 mmol, 115 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(1-(4-Methoxy-2,6-dimethylphenylsulfonyl)indolin-6-yl)-1-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecan-3-yl)ethanone | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CCC2=CC=C(C=C12)CC(=O)N1CCC2(CC1)CCN(CC2)C2=CC=NC=C2)C | C33H40N4O4S
